US07365085B2
a) rac-±-(2-Chloro-3-trifluoromethyl-benzyl)-(morpholin-4-yl-phenyl-ethyl)-amine
Following the procedure (preparation of rac-±-(2-chloro-3-trifluoromethyl-benzyl)-(trifluoro-phenyl-propyl)-amine) of Example 64, step (a) except rac-±-2-Morpholin4-yl-2-phenyl-ethylamine was used in step (a) instead of 2-chloro-3-(α,α,α-trifluoromethyl)benzylamine, and 2-chloro-3-trifluoromethyl benzaldehyde was used instead of (α,α,α-trifluoromethylphenylacetaldehyde, the title compound was sythesized as an oil, 0.27 g (88%); MS (ESI) 399 (M+H+).

reactant | (2-chloro-3-trifluoromethyl-benzyl)-(trifluoro-phenyl-propyl)-amine | ClC1=C(CNC(CC(C2=CC=CC=C2)(F)F)F)C=CC=C1C(F)(F)F | C17H14ClF6N
reactant | 2-Morpholin4-yl-2-phenyl-ethylamine | N1(CCOCC1)C(CN)C1=CC=CC=C1 | C12H18N2O
reactant | 2-chloro-3-trifluoromethyl benzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | α,α,α-trifluoromethylphenylacetaldehyde | FCC(C(=O)C1=CC=CC=C1)(CF)CF | C11H11F3O
product | (2-Chloro-3-trifluoromethyl-benzyl)-(morpholin-4-yl-phenyl-ethyl)-amine | ClC1=C(CNCC(C2=CC=CC=C2)N2CCOCC2)C=CC=C1C(F)(F)F | C20H22ClF3N2O
